US08071592B2
(b) 7-bromo-1-(2-propen-1-yl)pyrido[2,3-b]pyrazin-2(1H)-one
7-Bromopyrido[2,3-b]pyrazin-2(1H)-one (368 mg, 1.628 mmol) was suspended in dry DMF (10 ml) under argon at rt, and the stirred suspension was treated with K2CO3 (741 mg, 5.372 mmol) and allyl iodide (331 μL, 3.581 mmol). It was then stirred for 2 h before addition of water (100 ml). The mixture was then extracted with DCM (3×200 ml). The DCM extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated under reduced pressure to give a brown solid which was purified by column chromatography on silica with a 0-10% MeOH in DCM gradient to give the desired product as a light brown solid (278 mg, 64%).

reactant | 7-Bromopyrido[2,3-b]pyrazin-2(1H)-one | 1.628 mmol, 368 mg | BrC1=CC2=C(N=CC(N2)=O)N=C1 | C7H4BrN3O
reactant | K2CO3 | 5.372 mmol, 741 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl iodide | 3.581 mmol, 331 μL | C(C=C)I | C3H5I
reactant | water | 100 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 7-bromo-1-(2-propen-1-yl)pyrido[2,3-b]pyrazin-2(1H)-one | 278 mg, 64% | BrC1=CC2=C(N=CC(N2CC=C)=O)N=C1 | C10H8BrN3O
